US08133882B2
To a 8 ml THF solution of 400 mg of ethyl 3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]propanoate was added 40 mg of lithium aluminum hydride at 0° C., followed by stirring for 2 hours. Water was added to the reaction mixture, followed by and filteraion through celite. After evaporation under a reduced pressure, the resulting residue was purified by silica gel column chromatography to obtain 288 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(3-hydroxypropyl)quinolin-4(1H)-one.

reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | ethyl 3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]propanoate | 400 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CCC(=O)OCC)=O)F | C25H33FN2O3
reactant | lithium aluminum hydride | 40 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Water | O | H2O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(3-hydroxypropyl)quinolin-4(1H)-one | 288 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CCCO)=O)F | C23H31FN2O2
